US07169924B2
A suspension of 3-(4-fluorophenyl)acrylic acid (2.5 g, 15 mmol) in dry dichloromethane (50 ml) was treated with DMF (2 drops), oxalyl chloride (2.6 ml, 30 mmol) and the reaction was stirred at room temperature under argon for 3 h. The reaction mixture was evaporated to dryness and azeotroped with dichloromethane (25 ml×2) and evaporated to dryness giving a yellow oil. The acid chloride was mixed with sulfolane (15 ml) and treated with sulfamide (1.73 g, 0.018 moles) (A. Hulkenberg and J. J. Troost, Tetrahedron Letters Vol. 23, No. 14, 1505–1508, 1982) and the reaction mixture was heated to 120° C. for 3 h. The reaction mixture was cooled, poured into 1N NaOH (100 ml) and extracted with 1:1 diethyl ether:hexane (3×75 ml). The organic extracts were combined, washed with water (3×50 ml), dried (MgSO4) and evaporated to dryness. Purification by flash column chromatography eluted with 2:1 hexane:ethyl acetate gave E-3-(4-fluorophenyl)acrylonitrile as a cream solid (2.12 g, 96%); 1H-NMR (CDCl3) 5.77, 5.83 (1H, d), 7.16 (2H, m), 7.26, 7.40 (1H, d), 7.45 (2H, m). MS(APCI+)M+1=148, C9H6FN requires 147.

reactant | 3-(4-fluorophenyl)acrylic acid | 15 mmol, 2.5 g | FC1=CC=C(C=C1)C=CC(=O)O | C9H7FO2
reactant | oxalyl chloride | 30 mmol, 2.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sulfolane | 15 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | sulfamide | 0.018 moles, 1.73 g | S(=O)(=O)(N)N | H4N2O2S
reactant | NaOH | 1N, 100 ml | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | E-3-(4-fluorophenyl)acrylonitrile | 2.12 g, 96% | FC1=CC=C(C=C1)/C=C/C#N | C9H6FN
